US07790770B2
To a flame dried, 1 L, three necked round bottom flask (1 L) equipped with a temperature controller, a mechanical stirrer, a condenser and a N2 inlet was charged 3-bromo-5-fluorophenol (57.3 g, 300 mmol), 1,2-dibromotetrafluoroethane (156.0 g, 600 mmol), dry DMSO (300 mL) and Cs2CO3 (146.6 g, 450 mmol) under N2. The reaction mixture was heated to 50° C. for 5 h. After cooling to rt, water (300 mL) and hexane (300 mL) were added. The resulting mixture was stirred at rt for 30 min. The organic phase was separated and the aqueous layer was extracted with hexane (300 mL). The combined organic extracts were washed with water (500 mL), sat. NaCl (500 mL), dried over MgSO4, filtered and concentrated in vacuo to give 1-bromo-3-(2-bromo-1,1,2,2-tetrafluoroethoxy)-5-fluorobenzene (104.2 g, 94% yield) containing 5% of 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene (5.2 g). 1-Bromo-3-(2-bromo-1,1,2,2-tetrafluoroethoxy)-5-fluorobenzene: 1H NMR (300 MHz, CDCl3) δ 6.91-6.94 (m, 1H), 7.18-7.23 (m, 2H).

reactant | 3-bromo-5-fluorophenol | 300 mmol, 57.3 g | BrC=1C=C(C=C(C1)F)O | C6H4BrFO
reactant | 1,2-dibromotetrafluoroethane | 600 mmol, 156.0 g | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | DMSO | 300 mL | CS(=O)C | C2H6OS
reactant | Cs2CO3 | 450 mmol, 146.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | hexane | 300 mL | CCCCCC | C6H14
solvent | water | 300 mL | O | H2O
product | 1-bromo-3-(2-bromo-1,1,2,2-tetrafluoroethoxy)-5-fluorobenzene | 104.2 g, 94% yield | BrC1=CC(=CC(=C1)F)OC(C(F)(F)Br)(F)F | C8H3Br2F5O
